US06346527B1
To a mixture of ethyl 2,3-dihydro-9-ethoxycarbonyl-1-benzoxepin-4-carboxylate (0.10 g) and guanidine hydrochloride (0.33 g) in N,N-dimethylformamide (2 ml) was added 28% sodium methoxide in methanol (0.66 ml) at room temperature. After the mixture was stirred at room temperature overnight, it was purified by column chromatography on silica gel using a mixture of chloroform and methanol (30:1 to 4:1). The fractions containing objective compound was collected and evaporated in vacuo. The residue was treated with methanol and 4N hydrogen chloride in 1,4-dioxane, and the solvent was evaporated in vacuo. The residue was triturated with ethanol to give (2,3-dihydro-9-guanidinocarbonyl-1-benzoxepin-4-carbonyl)guanidine dihydrochloride (46 mg).

reactant | ethyl 2,3-dihydro-9-ethoxycarbonyl-1-benzoxepin-4-carboxylate | 0.10 g | C(C)OC(=O)C1=CC=CC=2C=C(CCOC21)C(=O)OCC | C16H18O5
reactant | guanidine hydrochloride | 0.33 g | Cl.NC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | methanol | 0.66 ml | CO | CH4O
product | (2,3-dihydro-9-guanidinocarbonyl-1-benzoxepin-4-carbonyl)guanidine dihydrochloride | 46 mg | Cl.Cl.N(C(=N)N)C(=O)C1=CC=CC=2C=C(CCOC21)C(=O)NC(=N)N | InChI=1S/C14H16N6O3.2ClH/c15-13(16)19-11(21)8-4-5-23-10-7(6-8)2-1-3-9(10)12(22)20-14(17)18;;/h1-3,6H,4-5H2,(H4,15,16,19,21)(H4,17,18,20,22);2*1H
